US03948952
A solution of pyrogallol (50 parts) in ethyl methyl ketone (200 parts) was stirred and heated to 50°C, then phosphorus pentoxide was added portionwise at such a rate that the temperature remained about 80°C. After stirring for a further 30 minutes at about 50°C the liquid layer was poured into cold water (1,000 parts) and the crude product isolated by extracting with benzene and evaporating the extracts. Distillation of the crude product gave pure 4-hydroxy-2-ethyl-2-methyl-1,3-benzodioxole (39.5 parts), boiling point 84°-85°C/0.4 mm., melting point 48°-50°C.

reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | water | O | H2O
solvent | ethyl methyl ketone | CC(=O)CC | C4H8O
product | 4-hydroxy-2-ethyl-2-methyl-1,3-benzodioxole | OC1=CC=CC=2OC(OC21)(C)CC | C10H12O3
